US07268145B2
To (1-naphthyl)methyl)(4-methyl-2-nitro-phenyl)amine (1.0021 g, 3.43 mmol), ethanol (5 ml) and 1,4-dioxane (5 ml) were added, and 2.058 M aqueous sodium hydroxide solution (1 ml) was further added, and refluxed in an oil bath. After 15 minutes, it was removed from the oil bath, and zinc powder (897 mg, 13.72 mmol) was fed thereto in portions. Then it was refluxed again in the oil bath for 2 hours. After 2 hours, it was concentrated under reduced pressure, and dissolved in ethyl acetate (50 ml), and washed twice with saturated saline (25 ml). After drying with magnesium sulfate, it was concentrated under reduced pressure and dried to obtain a brown oil of ((1-naphthyl)methyl)(2-amino-4-methyl-phenyl)amine (943.1 mg).

reactant | (4-methyl-2-nitro-phenyl)amine | 3.43 mmol, 1.0021 g | CC1=CC(=C(C=C1)N)[N+](=O)[O-] | C7H8N2O2
reactant | ethanol | 5 ml | C(C)O | C2H6O
reactant | sodium hydroxide | 2.058 M, 1 ml | [OH-].[Na+]
reactant | 1,4-dioxane | 5 ml | O1CCOCC1 | C4H8O2
catalyst | zinc | 13.72 mmol, 897 mg | [Zn] | Zn
product | ((1-naphthyl)methyl)(2-amino-4-methyl-phenyl)amine | 943.1 mg | C1(=CC=CC2=CC=CC=C12)CNC1=C(C=C(C=C1)C)N | C18H18N2
